US08168659B2
Irradiate (200 C, ˜6 W [150 W max.], ˜25 psi) a solution of 3-cyanophenol (9.5 g, 80 mmol), cyclopropyl bromide (8.0 mL; 100 mmol), and 1,8-diazabicyclo[5.4.0]undec-7-ene (18 mL, 120 mmol) divided equally into five 10-mL tubes for 15 min. with stirring and cooling. After cooling, take the dark reaction mixtures together in water (200 mL) and extracted with ether (200 mL). Wash the organic layer with 0.2 M aq NaOH (40 mL, salted), 0.2 M aq HCl (100 mL, salted), and water (100 mL, salted). Dry the organic layer (Na2SO4) and rotary evaporate (30° C.) yielding 3-cyclopropoxybenzonitrile (4.56 g, 28.65 mmol, 36% yield) as a dark brown liquid. GCMS: 4.20 min.; EIMS m/z 159.

reactant | 3-cyanophenol | 80 mmol, 9.5 g | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | cyclopropyl bromide | 100 mmol, 8.0 mL | C1(CC1)Br | C3H5Br
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 120 mmol, 18 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | water | 200 mL | O | H2O
product | 3-cyclopropoxybenzonitrile | 28.65 mmol, 4.56 g, 36% yield | C1(CC1)OC=1C=C(C#N)C=CC1 | C10H9NO
